US07977372B2
3-(4-Bromo-2,6-difluoro-phenyl)-acrylic acid ethyl ester
A mixture of 4-bromo-2,6-difluoro-benzaldehyde (1 g, 4.5 mmol), (carbethoxymethylene)-triphenyl-phosphorane (2 g, 5.7 mmol) in 30 mL of toluene was heated at reflux for 6 hours, and was evaporated to dryness. The solid was stirred in 200 mL of petroleum ether, and was filtered. The filtrate was evaporated to give the product as oil (1.2 g, yield 91%).

reactant | 4-bromo-2,6-difluoro-benzaldehyde | 4.5 mmol, 1 g | BrC1=CC(=C(C=O)C(=C1)F)F | C7H3BrF2O
reactant | (carbethoxymethylene)-triphenyl-phosphorane | 5.7 mmol, 2 g | C(=O)(OCC)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H21O2P
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(4-Bromo-2,6-difluoro-phenyl)-acrylic acid ethyl ester | 1.2 g, yield 91% | C(C)OC(C=CC1=C(C=C(C=C1F)Br)F)=O | C11H9BrF2O2
